US04775664
A mixture of 18.2 g (0.09 mol) of 2-ethoxy-5-bromopyridine (can be obtained from 2,5-dibromopyridine and sodium methanolate in DMSO), 11.4 g (0.12 mol) of chlorodimethylsilane and 50 ml of anhydrous tetrahydrofuran (THF) is added dropwise to 2.4 g (0.10 mol) of magnesium turnings in 10 ml of anhydrous THF, a strongly exothermic reaction occurring. The reaction is completed by refluxing for two hours. The mixture is then poured into water and extracted repeatedly with n-hexane, The extracts are washed with water and saturated sodium chloride solution, dried and evaporated, and the residue is distilled. 7 g (43%) of 2-ethoxy-5-dimethylsilylpyridine are obtained as a colorless oil of boiling point 7=140°-150° C.

reactant | 2-ethoxy-5-bromopyridine | 0.09 mol, 18.2 g | C(C)OC1=NC=C(C=C1)Br | C7H8BrNO
reactant | chlorodimethylsilane | 0.12 mol, 11.4 g | Cl[SiH](C)C | C2H7ClSi
reactant | magnesium | 0.10 mol, 2.4 g | [Mg] | Mg
reactant | water | O | H2O
solvent | THF | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-ethoxy-5-dimethylsilylpyridine | 7 g, 43% | C(C)OC1=NC=C(C=C1)[SiH](C)C | C9H15NOSi
